US07521457B2
b) 2-methoxy-N4-(3-pyrrolidin-1-yl-propyl)-benzene-1,4-diamine
200 mg (0.716 mmol) (3-methoxy-4-nitro-phenyl)-(3-pyrrolidin-1-yl-propyl)-amine are dissolved in 10 ml of methanol and combined with 537 μl (2.148 mmol) dioxanic hydrochloric acid and 20 mg palladium on charcoal. The reaction mixture is stirred for 1 h at ambient temperature and 5 bar H2 pressure. The catalyst is filtered off and the solvent is eliminated in vacuo.

reactant | (3-methoxy-4-nitro-phenyl)-(3-pyrrolidin-1-yl-propyl)-amine | 0.716 mmol, 200 mg | COC=1C=C(C=CC1[N+](=O)[O-])NCCCN1CCCC1 | C14H21N3O3
reactant | hydrochloric acid | 2.148 mmol, 537 μl | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | 2-methoxy-N4-(3-pyrrolidin-1-yl-propyl)-benzene-1,4-diamine | COC1=C(C=CC(=C1)NCCCN1CCCC1)N | C14H23N3O
